.subckt D_Bridge_+-AA 1 2 3 4
D1 3 1 1N4001
D2 4 1 1N4001
D3 2 3 1N4001
D4 2 4 1N4001
.MODEL 1N4001 D(IS=2.55E-9 RS=0.042 N=1.75 TT=5.76E-6 CJO=1.85E-11 VJ=0.75 M=0.333 BV=50 IBV=1E-5)
.ends D_Bridge_+-AA
